US06358980B1
4-(4-But-2-ynyloxybenzenesulfonyl)-N-hydroxy-1-(3-pyridinylcarbonyl)-4-piperidinecarboxamide was prepared following the procedure Example 64 (step 6). Starting from 4-(4-But-2-ynyloxybenzenesulfonyl)-1-(3-pyridinylcarbonyl)-4-piperidinecarboxylic acid (195 mg, 0.44 mmol) in dimethylformamide (4 ml), 1-hydroxybenzotriazole(72 mg, 0.53 mmol), 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride(119 mg, 0.62 mmol), N-methylmorpholine (0.072 ml, 0.66 mmol), and hydroxylamine (0.135 ml, 2.2 mmol), 65 mg (32%) of the product was isolated as a solid. HR-MS: m/z Calculated for C22H23N3O6S 458.1380; Found 458.1373.

reactant | 4-(4-But-2-ynyloxybenzenesulfonyl)-1-(3-pyridinylcarbonyl)-4-piperidinecarboxylic acid | 0.44 mmol, 195 mg | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)C1(CCN(CC1)C(=O)C=1C=NC=CC1)C(=O)O | C22H22N2O6S
reactant | 1-hydroxybenzotriazole | 0.53 mmol, 72 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 0.62 mmol, 119 mg | Cl.CN(CCCN=C=NCC)C
reactant | N-methylmorpholine | 0.66 mmol, 0.072 ml | CN1CCOCC1 | C5H11NO
reactant | hydroxylamine | 2.2 mmol, 0.135 ml | NO | H3NO
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 4-(4-But-2-ynyloxybenzenesulfonyl)-N-hydroxy-1-(3-pyridinylcarbonyl)-4-piperidinecarboxamide | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)C1(CCN(CC1)C(=O)C=1C=NC=CC1)C(=O)NO | C22H23N3O6S
